US07923561B2
N-[2-(5,8-Dimethoxy-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-quinolin-5-yl]-4-fluoro-benzenesulfonamide
The title compound, MS: m/e=508.4 (M+H+), was prepared in accordance with the general method of example 13 from 5-nitro-2-chloroquinoline, 4-fluorobenzenesulfonyl chloride and rac-1-amino-5,8-dimethoxy-1,2,3,4-tetrahydro-naphthalene (CAS 784988-69-8).

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 4-fluorobenzenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | rac-1-amino-5,8-dimethoxy-1,2,3,4-tetrahydro-naphthalene | NC1CCCC2=C(C=CC(=C12)OC)OC | C12H17NO2
product | N-[2-(5,8-Dimethoxy-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-quinolin-5-yl]-4-fluoro-benzenesulfonamide | COC1=C2CCCC(C2=C(C=C1)OC)NC1=NC2=CC=CC(=C2C=C1)NS(=O)(=O)C1=CC=C(C=C1)F | C27H26FN3O4S
